US05124332
To 50 mL of methanol is added sodium (3.32 g, 144.3 mmol). After the metal has dissolved indole (2.89 g, 24.6 mmol) and methyl 4-oxocyclohexanecarboxylate (5.0 g, 32.0 mmol) are added. The mixture is heated to reflux for 3 hours. The methanol is removed under reduced pressure and the residue partitioned between water and methylene chloride. The organic layer is discarded. The aqueous layer is acidified to pH 5 and extracted with three portions of methylene chloride. The combined organics are dried over sodium sulfate and evaporated to give 4-indolyl-3-cyclohexenecarboxylic acid (1.71 g). The material is hydrogenated in methanol (75 mL) under 50 psi of hydrogen int he presence of 5% palladium on carbon (0.5 g). After filtration and removal of solvent, the product is obtained as a mixture of diastereomers.

reactant | sodium | 144.3 mmol, 3.32 g | [Na] | Na
reactant | indole | 24.6 mmol, 2.89 g | N1C=CC2=CC=CC=C12 | C8H7N
reactant | methyl 4-oxocyclohexanecarboxylate | 32.0 mmol, 5.0 g | O=C1CCC(CC1)C(=O)OC | C8H12O3
solvent | methanol | 50 mL | CO | CH4O
product | 4-indolyl-3-cyclohexenecarboxylic acid | 1.71 g | N1C(=CC2=CC=CC=C12)C1=CCC(CC1)C(=O)O | C15H15NO2
